US07326786B2
To the suspension of ethyl phenylcyanoacetate (1.0 g, 5.3 mmol) in anhydrous ether (200 mL) was added lithium aluminum hydride at 0° C. The mixture was stirred at 0° C. for 18 h. After adding water (1 equiv.), 15% sodium hydroxide (1 equiv.) and water (3 equiv.) to the above solution, the precipitation was removed by filtration. The filtrate was concentrate to dry by lyophilization. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 0%-10% methanol in methylene chloride (0.1% NH4OH) in 30 min afforded 3-hydroxy-2-phenyl-propylamine (0.16 g, 20%).

reactant | ethyl phenylcyanoacetate | 5.3 mmol, 1.0 g | C1(=CC=CC=C1)C(C(=O)OCC)C#N | C11H11NO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 equiv. | O | H2O
reactant | sodium hydroxide | 1 equiv. | [OH-].[Na+]
reactant | water | 3 equiv. | O | H2O
solvent | ether | 200 mL | CCOCC | C4H10O
product | 3-hydroxy-2-phenyl-propylamine | 0.16 g, 20% | OCC(CN)C1=CC=CC=C1 | C9H13NO
